US05728835
3-Methoxy-N-(2-methoxyphenyl)benzamide
Using o-anisidine (1.0 ml, 8.55 mmol) and m-anisoyl chloride (1.2 ml, 8.55 mmol), the procedure of Reference Example 2 was repeated to obtain 2.2 g (100%) of the title compound in the form of brown oil.

reactant | o-anisidine | 8.55 mmol, 1.0 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | m-anisoyl chloride | 8.55 mmol, 1.2 ml | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | 3-Methoxy-N-(2-methoxyphenyl)benzamide | 2.2 g, 100% | COC=1C=C(C(=O)NC2=C(C=CC=C2)OC)C=CC1 | C15H15NO3
